US04702763
Step 1: 4-Methyl-3-methoxyphenyl hydrazine.
The compound was prepared by a method analogous to that of Example 22, Step 1. The reaction of 100 g (0.73 mole) of 4-methyl-3-methoxyaniline and 50.5 g (0.73 mole) of sodium nitrite in the presence of 330 g (1.46 moles) of stannous chloride dihydrate, 1160 mL of concentrated hydrochloric acid and 250 mL of water gave 58.0 g of product as an oil.

reactant | 4-methyl-3-methoxyaniline | 0.73 mole, 100 g | CC1=C(C=C(N)C=C1)OC | C8H11NO
reactant | sodium nitrite | 0.73 mole, 50.5 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 1160 mL | Cl | ClH
solvent | water | 250 mL | O | H2O
product | 4-Methyl-3-methoxyphenyl hydrazine | 58.0 g | CC1=C(C=C(C=C1)NN)OC | C8H12N2O
